data/oMe_Silver.jsonl
{"reaction_id": "NG-006_1-c1ccc(O[Si](C)(C)C(C)(C)C)cc1","name": "Alkyne zipper reaction","level": "easy","reactants_smiles": ["c1ccc(O[Si](C)(C)C(C)(C)C)cc1C#CCC"],"products_smiles": ["c1ccc(O[Si](C)(C)C(C)(C)C)cc1CCCC#C"],"conditions": "KH, 3-Aminopropylamine","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(O[Si](C)(C)C(C)(C)C)cc1C#C[CH-]C","rationale": "KH deprotonates the acidic propargylic position due to the high acidity of sp-hybridized C–H bonds, generating a resonance-stabilized acetylide anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(O[Si](C)(C)C(C)(C)C)cc1C=C=CC","rationale": "The acetylide anion abstracts a proton from an adjacent carbon, forming an allene intermediate via base-promoted rearrangement favored by strong basic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(O[Si](C)(C)C(C)(C)C)cc1CC#CC","rationale": "Deprotonation at the terminal position of the allene occurs because the adjacent cumulated double bonds increase acidity through inductive and hyperconjugative effects."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(O[Si](C)(C)C(C)(C)C)cc1CC=C=C","rationale": "Proton transfer regenerates an allene isomer, allowing migration of the triple bond toward the terminal position through reversible tautomerization."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(O[Si](C)(C)C(C)(C)C)cc1CCC#[C-]","rationale": "Deprotonation at the propargylic position of the shifted alkyne is favored due to sp-hybridization, enabling final migration toward the thermodynamically stable terminal alkyne."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(O[Si](C)(C)C(C)(C)C)cc1CCCC#C","rationale": "Protonation of the acetylide anion yields the terminal alkyne, favored by lower internal strain and greater stability under basic conditions."}],"description": "Strong base KH deprotonates terminal and internal positions sequentially, enabling reversible allene–alkyne tautomerizations. Under these conditions, the thermodynamically favored terminal alkyne is formed via the 'zipper' shift, driven by conjugation and stability of the final C≡C at the chain end."}
{"reaction_id": "NR-313_1-Cl_2-c2ccccc2_3-c2ccc(C)cc2_4-C#N_5-OC","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c(OC)c1I"],"products_smiles": ["c1(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c(OC)c1c2c(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c2(OC)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c(OC)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c(OC)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c(OC)c1[Cu](I)c2c(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c2(OC)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c(OC)c1c2c(Cl)c(c2ccccc2)c(c2ccc(C)cc2)c(C#N)c2(OC)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
